US09193689B2
To a solution of 1-(4-bromo-phenyl)-1-methyl-ethylamine (400 mg, 1.84 mmol) in diisopropylethylamine (4 mL) was added N,N-bis(2-chloroethyl)-4-methylbenzene sulphonamide (500 mg, 1.68 mmol) and the reaction subjected to microwave irradiation at 150° C. for 9 h afterwhich time the reaction was concentrated in vacuo and the crude residue purified by reverse phase preparative HPLC-MS to afford 1-[1-(4-bromo-phenyl)-1-methyl-ethyl]-4-(toluene-4-sulfonyl)-piperazine as a peach solid (375 mg, 47%).

reactant | 1-(4-bromo-phenyl)-1-methyl-ethylamine | 1.84 mmol, 400 mg | BrC1=CC=C(C=C1)C(C)(C)N | C9H12BrN
reactant | N,N-bis(2-chloroethyl)-4-methylbenzene sulphonamide | 1.68 mmol, 500 mg | ClCCN(S(=O)(=O)C1=CC=C(C=C1)C)CCCl | C11H15Cl2NO2S
solvent | diisopropylethylamine | 4 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 1-[1-(4-bromo-phenyl)-1-methyl-ethyl]-4-(toluene-4-sulfonyl)-piperazine | BrC1=CC=C(C=C1)C(C)(C)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C20H25BrN2O2S
